US06140100
A dry 100 mL 3-necked flask equipped with a nitrogen inlet, a condenser, a thermometer, and a magnetic stirrer was charged with 2.0 g of 3-tert-butyltoluene (Wiley Organics, Coshocton, Ohio 43812), 2.40 g of N-bromosuccinimide (Aldrich), and 30 mL of CCl4. The mixture was treated with 0.16 g of benzoyl peroxide (Aldrich) and heated at 6-° C. under N2. Careful temperature control is important to minimize by-product formation. After 1 h at 60° C. the reaction mixture was cooled to 0° C., filtered to remove succinimide, and the filtrate was concentrated in vacuo to afford a light yellow liquid. Analysis of this material by tlc (SiO2, hexane) indicated a major new component at Rf =0.50, a minor component at Rf =0.55, and a trace of 3-tert-butyltoluene at Rf =0.75. The crude product was purified by flash chromatography on 100 g of silica gel (hexane) to afford 1.06 g (35%) of 3-tert-butylbenzyl bromide as a clear liquid.

reactant | 3-tert-butyltoluene | 2.0 g | C(C)(C)(C)C=1C=C(C=CC1)C | C11H16
reactant | N-bromosuccinimide | 2.40 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | CCl4 | 30 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | benzoyl peroxide | 0.16 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | hexane | CCCCCC | C6H14
product | 3-tert-butylbenzyl bromide | 1.06 g, 35% | C(C)(C)(C)C=1C=C(CBr)C=CC1 | C11H15Br
